US06051712
A solution of 40 mg (0.09 mmol) of tert-butyl (3RS,4RS)-4-[5-(3-benzyloxy-propoxy)-pyrimidin-2-yl]-3-hydroxy-piperidine-1-carboxylate and 23 mg (0.1 mmol) of 2-bromomethyl-naphthalene in 5 ml of N,N-dimethylformamide was treated with 5 mg (0.1 mmol) of sodium hydride (50% dispersion in oil) and stirred at room temperature for 18 hours. For the working-up, the reaction mixture was evaporated under reduced pressure, the residue obtained was taken up in 3 ml of methylene chloride and the solution was chromatographed directly on silica gel using a 2:1 mixture of hexane and ethyl acetate as the eluent. There were obtained 40 mg (76% of theory) of tert-butyl (3RS,4RS)-4-[5-(3-benzyloxy-propoxy)-pyrimidin-2-yl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate as an oil; MS: 584 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[5-(3-benzyloxy-propoxy)-pyrimidin-2-yl]-3-hydroxy-piperidine-1-carboxylate | 0.09 mmol, 40 mg | C(C1=CC=CC=C1)OCCCOC=1C=NC(=NC1)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C24H33N3O5
reactant | 2-bromomethyl-naphthalene | 0.1 mmol, 23 mg | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | sodium hydride | 0.1 mmol, 5 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (3RS,4RS)-4-[5-(3-benzyloxy-propoxy)-pyrimidin-2-yl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | 40 mg, 76% | C(C1=CC=CC=C1)OCCCOC=1C=NC(=NC1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C35H41N3O5
